US09376449B2
To a mixture of a mixture (1.74 g) of 4-chloro-1,2,6,8,9,10-hexahydro-7H-furo[3,2-e]pyrido[3,4-b]indol-7-one and 10-chloro-2,3,5,7,8,9-hexahydro-6H-furo[2,3-f]pyrido[3,4-b]indol-6-one, and ethanol (20.0 mL) was added a 50% aqueous sodium hydroxide solution (20.0 mL), followed by warming to 80° C. and stirring overnight. This mixture was warmed to 100° C. and stirred for 2 days. The reaction mixture was ice-cooled, and then tetrahydrofuran (40.0 mL) and water (40.0 mL) were added thereto. A solution of di-tert-butyl dicarbonate (1.44 g) in tetrahydrofuran (40 mL) was further added thereto, followed by stirring at room temperature overnight. To the mixture was added di-tert-butyl dicarbonate (13.0 g), followed by stirring at room temperature overnight. The reaction mixture was neutralized (ca. pH 8) with acetic acid, and sodium hydrogen carbonate (2.78 g) was added thereto. Di-tert-butyl dicarbonate (2.16 g) was further added thereto, followed by stirring at room temperature for 2 days. The pH of the reaction mixture was adjusted to 3 with acetic acid and 6 M hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and then the insoluble materials were separated by filtration. The filtrate was concentrated under reduced pressure and then the obtained residue was washed with a solution of hexane:ethyl acetate=5:1 to obtain a mixture (1.85 g) of 8-{2-[(tert-butoxycarbonyl)amino]ethyl}-4-chloro-1,6-dihydro-2H-furo[3,2-e]indole-7-carboxylic acid and 7-{2-[(tert-butoxycarbonyl)amino]ethyl}-8-chloro-3,5-dihydro-2H-furo[2,3-f]indole-6-carboxylic acid as a yellowish brown solid.

reactant | 4-chloro-1,2,6,8,9,10-hexahydro-7H-furo[3,2-e]pyrido[3,4-b]indol-7-one | 1.74 g | ClC1=C2C(=C3C4=C(NC3=C1)C(NCC4)=O)CCO2 | C13H11ClN2O2
reactant | 10-chloro-2,3,5,7,8,9-hexahydro-6H-furo[2,3-f]pyrido[3,4-b]indol-6-one | ClC=1C=2C3=C(NC2C=C2C1OCC2)C(NCC3)=O | C13H11ClN2O2
reactant | sodium hydroxide | 20.0 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 13.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogen carbonate | 2.78 g | C(O)([O-])=O.[Na+]
reactant | Di-tert-butyl dicarbonate | 2.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40.0 mL | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 40.0 mL | O | H2O
solvent | ethanol | 20.0 mL | C(C)O | C2H6O
product | 8-{2-[(tert-butoxycarbonyl)amino]ethyl}-4-chloro-1,6-dihydro-2H-furo[3,2-e]indole-7-carboxylic acid | 1.85 g | C(C)(C)(C)OC(=O)NCCC1=C(NC2=CC(=C3C(=C12)CCO3)Cl)C(=O)O | C18H21ClN2O5
